US05459270
A solution of 1-t-butoxycarbonyl-2-phenyl-piperidin-3-one (0.57 g, Example 48a)in 5 ml anhydrous tetrahydrofuran at -78° C. was treated with methyl magnesium bromide (1.6 ml of 1.5M solution in toluene-THF). The reaction was partitioned between saturated ammonium chloride-diethyl ether, the organic phase dried and evaporated in vacuo. The residue was chromatographed using 20% ethyl acetate in hexane as eluant to give 1-t-butoxycarbonyl, 3-methyl-2-phenyl piperidin-3-ol as a crystalline solid, m.p.=95°-97° C.

reactant | 1-t-butoxycarbonyl-2-phenyl-piperidin-3-one | C(C)(C)(C)OC(=O)N1C(C(CCC1)=O)C1=CC=CC=C1 | C16H21NO3
reactant | methyl magnesium bromide | 1.5M, 1.6 ml | C[Mg]Br
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-methyl-2-phenyl piperidin-3-ol | CC1(C(NCCC1)C1=CC=CC=C1)O | C12H17NO
